US06620815B1
To a well stirred suspension of 95% NaH (0.55 g, 11.8 mmol) in THF (20 mL) at room temperature was added a solution of [2-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester (3.2 g, 23.0 mmol) in THF via a dropping funnel at room temperature. The resulting suspension was stirred for 3 h and then quenched carefully with 10 mL of water. The biphasic mixture was extracted with 100 mL of Et2O, washed with brine, filtered and the solvent was removed in vacuo. The gummy residue thus obtained was purified by column chromatography over silica gel (Rf=0.15, 3:2 hexane-EtOAc) to obtain 5-(3,4-difluoro-phenyl)-oxazolidin-2-one as a white solid (1.1 g, 47%).

reactant | NaH | 11.8 mmol, 0.55 g | [H-].[Na+]
reactant | [2-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester | 23.0 mmol, 3.2 g | C(C)(C)(C)OC(NCC(O)C1=CC(=C(C=C1)F)F)=O | C13H17F2NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(3,4-difluoro-phenyl)-oxazolidin-2-one | 1.1 g, 47% | FC=1C=C(C=CC1F)C1CNC(O1)=O | C9H7F2NO2
